US05739336
A mixture of tert-butyl 2,4-dioxo-1,3,8-triaza-8-spiro[4.5]decanecarboxylate (4.18 g, 15.5 mmol), 60% sodium hydride in oil (0.68 g, 17 mmol), and DMF (25 mL) was stirred approximately one hour at 25° C.; then 2-iodopropane (2.7 g, 16 mmol) was added and stirring was continued for three days. The solvent was removed under reduced pressure, and the residue was stirred with water (80 mL) for a few minutes. The insoluble solid was collected and purified by chromatography, eluting with ethyl acetate/hexane (60:40). tert-Butyl 2,4-dioxo-3-(1-methylethyl)-1,3,8-triaza-8-spiro[4.5]decanecarboxylate (0.66 g, 2.1 mmol), m.p. 206°-208° C. was obtained as fine needles.

reactant | tert-butyl 2,4-dioxo-1,3,8-triaza-8-spiro[4.5]decanecarboxylate | 15.5 mmol, 4.18 g | O=C1NC2(C(N1)=O)CCN(CC2)C(=O)OC(C)(C)C | C12H19N3O4
reactant | sodium hydride | [H-].[Na+]
reactant | 2-iodopropane | 16 mmol, 2.7 g | IC(C)C | C3H7I
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 2,4-dioxo-3-(1-methylethyl)-1,3,8-triaza-8-spiro[4.5]decanecarboxylate | 2.1 mmol, 0.66 g | O=C1NC2(C(N1C(C)C)=O)CCN(CC2)C(=O)OC(C)(C)C | C15H25N3O4
